US03957819
Reaction of 3-aminopropanol with 3-hydroxy-(3-(m-trifluoromethylphenyl)-)-3H-indol-2-one in presence of toluene-p-sulphonic acid by a procedure analogous to that of Example 1 gives 2-(3-hydroxypropylamino)-3-(m-trifluoromethylphenyl)-3H-indol-3-ol.

reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | 3-hydroxy-(3-(m-trifluoromethylphenyl)-)-3H-indol-2-one | OC1(C(NC2=CC=CC=C12)=O)C1=CC(=CC=C1)C(F)(F)F | C15H10F3NO2
reactant | toluene-p-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(3-hydroxypropylamino)-3-(m-trifluoromethylphenyl)-3H-indol-3-ol | OCCCNC1=NC2=CC=CC=C2C1(O)C1=CC(=CC=C1)C(F)(F)F | C18H17F3N2O2
